US07741347B2
Step 2: (R)—((S)-1-Phenylethyl) 2-(2-fluorophenyl)-2-(piperidin-1-yl)acetate:
To a solution of (S)-1-phenylethyl 2-(2-fluorophenyl)acetate (5.00 g, 19.4 mmol) in THF (1200 mL) at 0° C. was added DBU (6.19 g, 40.7 mmol) and the solution was allowed to warm to room temperature while stirring for 30 minutes. The solution was then cooled to −78° C. and a solution of CBr4 (13.5 g, 40.7 mmol) in THF (100 mL) was added and the mixture was allowed to warm to −10° C. and stirred at this temperature for 2 hours. The reaction mixture was quenched with saturated aq. NH4Cl and the layers were separated. The aqueous layer was back-extracted with ethyl acetate (2×) and the combined organic phases were washed (H2O, brine), dried (Na2SO4), filtered, and concentrated in vacuo. To the residue was added piperidine (5.73 mL, 58.1 mmol) and the solution was stirred at room temperature for 24 hours. The volatiles were then concentrated in vacuo and the residue was purified by silica gel chromatography (Biotage/0-30% diethyl ether-hexane) to provide a pure mixture of diastereomers (2:1 ratio by 1H NMR) as a yellow oil (2.07 g, 31%), along with unreacted starting material (2.53 g, 51%). Further chromatography of the diastereomeric mixture (Biotage/0-10% diethyl ether-toluene) provided the title compound as a colorless oil (0.737 g, 11%). 1H NMR (400 MHz, CD3OD) δ 7.52 (ddd, J=9.4, 7.6, 1.8 Hz, 1H), 7.33-7.40 (m, 1), 7.23-7.23 (m, 4H), 7.02-7.23 (m, 4H), 5.86 (q, J=6.6 Hz, 1H), 4.45 (s, 1H), 2.39-2.45 (m, 4H), 1.52-1.58 (m, 4H), 1.40-1.42 (m, 1H), 1.38 (d, J=6.6 Hz, 3H). LCMS: Anal. Calcd. for C21H24FNO2: 341. found: 342 (M+H)+.

reactant | (S)-1-phenylethyl 2-(2-fluorophenyl)acetate | 19.4 mmol, 5.00 g | FC1=C(C=CC=C1)CC(=O)O[C@@H](C)C1=CC=CC=C1 | C16H15FO2
reactant | DBU | 40.7 mmol, 6.19 g | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | CBr4 | 40.7 mmol, 13.5 g | C(Br)(Br)(Br)Br | CBr4
reactant | piperidine | 58.1 mmol, 5.73 mL | N1CCCCC1 | C5H11N
solvent | THF | 1200 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | diethyl ether toluene | C(C)OCC.C1(=CC=CC=C1)C
product | (R)—((S)-1-Phenylethyl) 2-(2-fluorophenyl)-2-(piperidin-1-yl)acetate | 0.737 g, 11% | FC1=C(C=CC=C1)[C@H](C(=O)O[C@@H](C)C1=CC=CC=C1)N1CCCCC1 | C21H24FNO2
